US08003647B2
4-(3-Cyano-5,6-difluoroindol-1-yl)-2-hydroxybenzoic acid ethyl ester
To a solution of 4-(3-cyano-5,6-difluoroindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester (0.12 g) in a mixed solvent of tetrahydrofuran (1.5 mL) and ethanol (3 mL) was added 2 mol/L hydrochloric acid (1.0 mL), and this mixture was stirred at 70° C. overnight. After cooling to ambient temperature, the precipitated solid was collected by filtration, and washed with water and n-hexane, and dried under reduced pressure at 40° C. to give the title compound (0.074 g).

reactant | 4-(3-cyano-5,6-difluoroindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester | 0.12 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C2=CC(=C(C=C12)F)F)C#N)OCOC)=O | C20H16F2N2O4
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2 mol/L, 1.0 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(3-Cyano-5,6-difluoroindol-1-yl)-2-hydroxybenzoic acid ethyl ester | 0.074 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C2=CC(=C(C=C12)F)F)C#N)O)=O | C18H12F2N2O3
